US08835689B2
a) dimethyl-(4-methylene-1-phenyl-cyclohexyl)-amine
Tert-BuOK (0.550 g, 4.74 mmol) was provided in abs. ether (10 mL) in argon and methyl triphenyl phosphonium bromide (1.89 g, 4.74 mmol) added. The mixture was then heated to 40° C. for 30 min. After this reaction time 4-dimethylamino-4-phenylcyclohexanone (1.00 g, 4.60 mmol) dissolved in abs. THF (10 mL) was carefully added in drops and the reaction solution was heated to 50° C. for 5 h. The reaction batch was stirred overnight at room temperature and concentrated in a vacuum until dry. The residue was taken up in dioxan (50 mL) and mixed with HCl/dioxan (5 mL). The precipitated solid was aspirated and washed with ether. The isolated hydrochloride was basified with 2 N NaOH and extracted with dichloromethane (2×80 mL). The organic phase was dried over Na2SO4, filtered and concentrated to low volume in a vacuum.

reactant | ether | 10 mL | CCOCC | C4H10O
reactant | 4-dimethylamino-4-phenylcyclohexanone | 4.60 mmol, 1.00 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
catalyst | methyl triphenyl phosphonium bromide | 4.74 mmol, 1.89 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | dimethyl-(4-methylene-1-phenyl-cyclohexyl)-amine | CN(C1(CCC(CC1)=C)C1=CC=CC=C1)C | C15H21N
